US05240950
A mixture of 2-amino-4-(4-cyclohexylphenyl)thiazole hydrochloride (1.0 g) and triethyl orthoformate (5 ml) was stirred at 130° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and to the remaining crystals was added hexane, followed by filtration. The filtrate was concentrated to give crystals of 4-(4-cyclohexylphenyl)-2-ethoxymethyleneaminothiazole (1.02 g, yield of 95.6 %). Recrystallization from diethyl etherhexane produced yellowish prisms, mp of 84° to 85° C.

reactant | 2-amino-4-(4-cyclohexylphenyl)thiazole hydrochloride | 1.0 g | Cl.NC=1SC=C(N1)C1=CC=C(C=C1)C1CCCCC1
reactant | triethyl orthoformate | 5 ml | C(OCC)(OCC)OCC | C7H16O3
product | 4-(4-cyclohexylphenyl)-2-ethoxymethyleneaminothiazole | 1.02 g, yield of 95.6 % | C1(CCCCC1)C1=CC=C(C=C1)C=1N=C(SC1)N=COCC | C18H22N2OS
